US07342118B2
(2,2-Dimethyl-propyl)-[2-methyl-2-(4-nitro-imidazol-1-yl)-propyl]-amine
2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde was reacted with 2,2-dimethyl-propyl amine to provide the title compound: H1 NMR (400 MHz, CDCl3) 0.74 (s,9H), 1.52 (s, 6H), 2.2 (s, 2H), 2.8 (s, 2H), 7.6 (s, 1H), 7.9 (s, 1H); MS m/z 255.3 (M+1).

reactant | 2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde | CC(C=O)(C)N1C=NC(=C1)[N+](=O)[O-] | C7H9N3O3
reactant | 2,2-dimethyl-propyl amine | CC(CN)(C)C | C5H13N
product | (2,2-Dimethyl-propyl)-[2-methyl-2-(4-nitro-imidazol-1-yl)-propyl]-amine | CC(CNCC(C)(N1C=NC(=C1)[N+](=O)[O-])C)(C)C | C12H22N4O2
